US06531502B1
3-Isopropyl-4-methoxybenzaldehyde was condensed with 7-aza-2-oxindole to give 0.25 g of 3-(3-isopropyl-4-methoxybenzylidene)-1,3-dihydropyrrolo[2,3-b]pyridin-2-one as a yellow-orange solid.

reactant | 3-Isopropyl-4-methoxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=CC1OC | C11H14O2
reactant | 7-aza-2-oxindole | N1C(CC2=CC=CN=C12)=O | C7H6N2O
product | 3-(3-isopropyl-4-methoxybenzylidene)-1,3-dihydropyrrolo[2,3-b]pyridin-2-one | 0.25 g | C(C)(C)C=1C=C(C=C2C(NC3=NC=CC=C32)=O)C=CC1OC | C18H18N2O2
